US07396943B2
4-[5-(Phenethylamino-methyl)-thiophen-2-yloxy]-benzamide
Combine 4-[5-(phenethylamino-methyl)-thiophen-2-yloxy]-benzonitrile ((139 mg, 0.415 mmol), K2CO3 (powder, 28 mg, 50 mol %) and DMSO (4 mL). Cool down to 0° C. Add hydrogen peroxide (0.124 mL) dropwise. Stir the resulting reaction mixture for 2.5 h. Partition the reaction mixture between H2O (5 mL) and CH2Cl2 (3×5 mL). Dry over sodium sulfate, filter and concentrate. Purify the residue through an SCX column with ammonia (2.0 M in methanol) to provide 105 mg (75%) of the title compound. Mass spectrum (ion spray): m/z=353.0 (M+1). 1H NMR (Cl3CD): 7.80 (d, J=8.7 Hz, 2H), 7.34-7.22 (m, 5H), 7.12 (d, J=8.7 Hz, 2H), 6.65 (d, J=3.37 Hz, 1H), 6.44 (d, J=3.7 Hz, 1H), 5.96 (bs, 2H), 3.93 (s, 2H), 2.97 (t, J=6.4 Hz, 2H), 2.85 (t, J=6.5 Hz, 2H).

reactant | 4-[5-(phenethylamino-methyl)-thiophen-2-yloxy]-benzonitrile | C(CC1=CC=CC=C1)NCC1=CC=C(S1)OC1=CC=C(C#N)C=C1 | C20H18N2OS
reactant | K2CO3 | 28 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | hydrogen peroxide | 0.124 mL | OO | H2O2
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | 4-[5-(Phenethylamino-methyl)-thiophen-2-yloxy]-benzamide | 105 mg, 75% | C(CC1=CC=CC=C1)NCC1=CC=C(S1)OC1=CC=C(C(=O)N)C=C1 | C20H20N2O2S
